US08247436B2
Step 1: 6-Bromo-3-(2,5-dimethyl-1H-pyrrol-1-yl)-5-(trifluoromethyl)picolinic acid
6-Bromo-3-(2,5-dimethyl-pyrrol-1-yl)-5-trifluoromethyl-pyridine-2-carboxylic acid methyl ester (1.9 g, 5.04 mmol) and 2M NaOH (2.52 ml, 5.04 mmol) in THF (10 ml) was stirred at RT for 1 hour. The reaction mixture was poured into water (50 ml) and the pH was adjusted to pH 4 by addition of 1M HCl. The mixture was extracted with EtOAc (2×50 ml) and the organic portion was washed with brine (30 ml), dried over MgSO4 (5 g), filtered and concentrated to give the title compound as a crystalline orange solid;

reactant | 6-Bromo-3-(2,5-dimethyl-pyrrol-1-yl)-5-trifluoromethyl-pyridine-2-carboxylic acid methyl ester | 5.04 mmol, 1.9 g | COC(=O)C1=NC(=C(C=C1N1C(=CC=C1C)C)C(F)(F)F)Br | C14H12BrF3N2O2
reactant | NaOH | 5.04 mmol, 2M, 2.52 ml | [OH-].[Na+]
reactant | water | 50 ml | O | H2O
reactant | HCl | 1M | Cl | ClH
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 6-Bromo-3-(2,5-dimethyl-1H-pyrrol-1-yl)-5-(trifluoromethyl)picolinic acid | BrC1=C(C=C(C(=N1)C(=O)O)N1C(=CC=C1C)C)C(F)(F)F | C13H10BrF3N2O2
